US07517873B2
A mixture of 0.25 g (0.00089 mole) of 2-chloro-9-cyclohexyl-5,7,8,9-tetrahydropyrimido[4,5-b][1,4]diazepin-6-one (VI-20), 0.0022 g (0.0013 mole) of 4-amino-3-methoxybenzoic acid and 3 mL of 1 M hydrochloric acid was heated in a sealed vial at 100 degrees for 1.5 hours. After cooling, the solid was collected by filtration to give 0.235 g of 4-(9-cyclohexyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-28a).

reactant | 2-chloro-9-cyclohexyl-5,7,8,9-tetrahydropyrimido[4,5-b][1,4]diazepin-6-one | 0.00089 mole, 0.25 g | ClC=1N=CC2=C(N(CCC(N2)=O)C2CCCCC2)N1 | C13H17ClN4O
reactant | 4-amino-3-methoxybenzoic acid | 0.0013 mole, 0.0022 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | hydrochloric acid | 1 M, 3 mL | Cl | ClH
product | 4-(9-cyclohexyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.235 g | C1(CCCCC1)N1C2=C(NC(CC1)=O)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H25N5O4
